US06613786B2
Bromine, Br2 (63.9 g) in 50 ml of dichloromethane was added dropwise to a solution of 4-chloro-6-nitrophenol (34.7 g) in 300 ml of dichloromethane. After the addition was completed, the mixture was stirred at room temperature for 30 min. Pyridine (19.0 g, 240 mmol) in 50 ml of dichloromethane was added. This mixture was stirred at room temperature for 2 hours and a white precipitate was formed. The reaction mixture was quenched with 200 ml of water and the white precipitate was dissolved. The organic layer was then washed with water (2×150 ml), 150 ml of brine and dried over MgSO4. The solvent was evaporated under vacuum to give the crude product which was recrystallized from ethyl acetate to afford 41.5 g (82%) yellow crystalline 2-nitro-4-chloro-6-bromophenol. 1H NMR (300 MHz, CDCl3) δ8.11 (d, J=2.5 Hz, 1 H), 7.87 (d, J=2.5 Hz, 1H).

reactant | Bromine | BrBr | Br2
reactant | Br2 | 63.9 g | BrBr | Br2
reactant | 4-chloro-6-nitrophenol | 34.7 g | ClC1=CC=C(C(=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | Pyridine | 240 mmol, 19.0 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-nitro-4-chloro-6-bromophenol | 41.5 g, 82% | [N+](=O)([O-])C1=C(C(=CC(=C1)Cl)Br)O | C6H3BrClNO3
